US09359359B2
To a solution of 7-allyl-8-chloro-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione (3.8 g, 12.18 mmol) in THF (40 mL) and DMSO (10 mL) was added tetrakis(triphenylphosphine)palladium(0) (800 mg, 0.693 mmol) and morpholine (5.4 mL, 62.07 mmol). The reaction was degassed and refilled with nitrogen 3 times. The reaction was stirred at room temperature overnight. The mixture was poured into water (20 mL) and ethyl acetate (100 mL). The solid precipitate was collected, washed with ethyl acetate, and dried under vacuum to give 8-chloro-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione (2.2 g, 66.4% yield) as grey solid. LCMS retention time 0.404 min; LCMS MH+ 273.

reactant | 7-allyl-8-chloro-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione | 12.18 mmol, 3.8 g | C(C=C)N1C(=NC=2N(C(N(C(C12)=O)CCCO)=O)CC)Cl | C13H17ClN4O3
reactant | morpholine | 62.07 mmol, 5.4 mL | N1CCOCC1 | C4H9NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.693 mmol, 800 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione | 2.2 g, 66.4% yield | ClC1=NC=2N(C(N(C(C2N1)=O)CCCO)=O)CC | C10H13ClN4O3
